* NMOS transistor M1
M1 out Vin 4 4 NMOS

* PMOS transistor M2
M2 3 out 2 3 PMOS

* Voltage Source VDD
VDD 3 0 DC 1.8V

* Voltage Source Vin
Vin Vin 0 DC <value>